US08877760B2
5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(3-(pyrimidin-2-yl)phenylamino)pyrazine-2-carboxamide
A mixture of 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-chloropyrazine-2-carbonitrile (76 mg, 0.264 mmol), 3-(pyrimidin-2-yl)aniline (64 mg, 0.375 mmol), K2CO3 (90 mg, 0.652 mmol), BINAP (30 mg, 0.048 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 3 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(3-(pyrimidin-2-yl)phenylamino)pyrazine-2-carbonitrile (58 mg). The compound 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(3-(pyrimidin-2-yl)phenylamino)pyrazine-2-carbonitrile (58 mg, 0.131 mmol) was dissolved in EtOH (2 mL) and DMSO (1 mL), aq. 1N NaOH (1.0 mL) and aq. H2O2 (30%, 1.0 mL) were added. The mixture was stirred at room temperature for 90 min. HOAc (0.5 mL) was added. The mixture was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (43 mg). MS 441.2 (M+H); UV 201.1, 249.3, 301.5 nm; t 0.462 min.

reactant | 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(3-(pyrimidin-2-yl)phenylamino)pyrazine-2-carbonitrile | 0.131 mmol, 58 mg | N[C@@H]1[C@@H](CCCC1(F)F)NC=1N=C(C(=NC1)C#N)NC1=CC(=CC=C1)C1=NC=CC=N1 | C21H20F2N8
reactant | NaOH | 1N, 1.0 mL | [OH-].[Na+]
reactant | H2O2 | 1.0 mL | OO | H2O2
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(3-(pyrimidin-2-yl)phenylamino)pyrazine-2-carboxamide | 43 mg | N[C@@H]1[C@@H](CCCC1(F)F)NC=1N=C(C(=NC1)C(=O)N)NC1=CC(=CC=C1)C1=NC=CC=N1 | C21H22F2N8O
